US06451794B1
(iii) 2-(4-Ethoxy-phenyl)-3-iodo-pyrazolo[1,5-b]pyridazine
A mixture of 2-(4-ethoxy-phenyl)-pyrazolo[1,5-b]pyridazine-3-carboxylic acid (710 mg), N-iodosuccinimide (678 mg) and sodium bicarbonate (717 mg) in DMF (8 ml) was stirred for 4 h. A further quantity of N-iodosuccinimide (100 mg) was added and stirring continued for 2 h. Aqueous workup gave a dark brown solid which was purified by SPE with dichloromethane as eluant. This gave the title compound as an orange-brown solid (429 mg, 47%).

reactant | 2-(4-ethoxy-phenyl)-pyrazolo[1,5-b]pyridazine-3-carboxylic acid | 710 mg | C(C)OC1=CC=C(C=C1)C1=NN2N=CC=CC2=C1C(=O)O | C15H13N3O3
reactant | N-iodosuccinimide | 678 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium bicarbonate | 717 mg | C([O-])(O)=O.[Na+]
reactant | N-iodosuccinimide | 100 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-(4-Ethoxy-phenyl)-3-iodo-pyrazolo[1,5-b]pyridazine | 429 mg, 47% | C(C)OC1=CC=C(C=C1)C1=NN2N=CC=CC2=C1I | C14H12IN3O
